US04933355
Ethyl 5-{1-ethoxycarbonyl-1-[2-(3-phenylthioureido)-thiazol-4-yl]methylene}rhodanine-3 -acetate
A mixture comprising 10 g of 5-{1-ethoxycarbonyl-1-[2-(3-phenylthioureido)thiazol-4-yl]methylene}rhodanine-3acetic acid 20 g of ethanol and 150 ml of a 4N dioxane solution of hydrogen chloride was left to stand at room temperature for 4.5 days. The reaction mixture was then poured into water and extracted with ethyl acetate. The extract was washed with aqueous potassium carbonate solution and then with aqueous sodium chloride solution, and was then dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was purified by silica gel column chromatography, using as eluent a 1:1 by volume mixture of hexane and ethyl acetate. The resulting crystalline product was recrystallised from a 1:5 by volume mixture of hexane and ethyl acetate, giving a yellow powder having the following physical properties.

reactant | 5-{1-ethoxycarbonyl-1-[2-(3-phenylthioureido)thiazol-4-yl]methylene}rhodanine-3acetic acid | 10 g | C(C)OC(=O)C(C=1N=C(SC1)NC(=S)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H16N4O5S4
reactant | ethanol | C(C)O | C2H6O
reactant | dioxane | 4N | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | Ethyl 5-{1-ethoxycarbonyl-1-[2-(3-phenylthioureido)-thiazol-4-yl]methylene}rhodanine-3 -acetate | C(C)OC(=O)C(C=1N=C(SC1)NC(=S)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)OCC)=O | C21H20N4O5S4
